US07067506B2
Step 4: 2-Amino-5,6-diphenylpyrazine.
To a stirred solution of 2-Azido-5,6-diphenylpyrazine (45 mg, 0.17 mmol) in 50 mL EtOAc at room temperature was added triethylamine (100 μL) followed by Pearlman's Catalyst (50 mg). The suspension was put through a vacuum/purge cycle three times with hydrogen gas and then held under 1 atmosphere of hydrogen for 2 hours. The suspension was then filtered through GF/F filter paper with EtOAc and concentrated. The crude product was eluted through a Biotage 12S column with 1/1 EtOAc/hexane to give pure product, as a clear oil (25 mg, 59%). 1H-NMR (400 MHz, CDCl3) δ8.04 (s, 1H), 7.42-7.20 (m, 10H), 4.62 (br s, 2H)

reactant | 2-Azido-5,6-diphenylpyrazine | 0.17 mmol, 45 mg | N(=[N+]=[N-])C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11N5
reactant | triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pearlman's Catalyst | 50 mg | [OH-].[OH-].[Pd+2]
product | 2-Amino-5,6-diphenylpyrazine | NC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H13N3
